US05702637
(S)-2-hydroxy-3-(2,2,3,3,4,4,5,5,6,6,6-undecafluorohexyloxy)-propanol was prepared by the following modification of a procedure described in U.S. Pat. No. 3,470,258 (Teroso et al.). (R)-glycidol (5.0 g, 67.5 mmol) was added dropwise to a 120° C. solution of 2,2,3,3,4,4,5,5,6,6,6-undecafluorohexanol (30 g, 101 mmol) and N,N'-diisopropylethylamine (0.47 ml, 2.7 mmol). The resulting mixture was then stirred for one hour. The resulting product was distilled (79°-81° C. at 0.4 mm Hg) from the mixture to give 14.7 g of (S)-2-hydroxy-3-(2,2,3,3,4,4,5,5,6,6,6-undecafluorohexyloxy)-1-propanol as a clear liquid. (R)-2-fluoro-3-(2,2,3,3,4,4,5,5,6,6,6-undecafluorohexane-1-p-toluenesulfonate was then prepared using essentially the procedure described in Example 1.

reactant | (R)-glycidol | 67.5 mmol, 5.0 g | C1[C@H](O1)CO | C3H6O2
reactant | 2,2,3,3,4,4,5,5,6,6,6-undecafluorohexanol | 101 mmol, 30 g | FC(CO)(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F | C6H3F11O
catalyst | N,N'-diisopropylethylamine | 2.7 mmol, 0.47 ml | CCN(C(C)C)C(C)C | C8H19N
product | (S)-2-hydroxy-3-(2,2,3,3,4,4,5,5,6,6,6-undecafluorohexyloxy)-1-propanol | 14.7 g | O[C@@H](CO)COCC(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F | C9H9F11O3
